US08975400B2
3-(2,6-difluoro-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)benzonitrile
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (60 mg, 0.323 mmol), sodium hydride (25.9 mg, 0.647 mmol) and 3-(2,6-difluoro-4-(hydroxymethyl)phenoxy)benzonitrile (84 mg, 0.323 mmol) in DMF (2 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.323 mmol, 60 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.647 mmol, 25.9 mg | [H-].[Na+]
reactant | 3-(2,6-difluoro-4-(hydroxymethyl)phenoxy)benzonitrile | 0.323 mmol, 84 mg | FC1=C(OC=2C=C(C#N)C=CC2)C(=CC(=C1)CO)F | C14H9F2NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(2,6-difluoro-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)benzonitrile | FC1=C(OC=2C=C(C#N)C=CC2)C(=CC(=C1)COC=1C=C2N(C(N1)=O)CCN2C)F | C21H16F2N4O3
